*$
************** Power Discrete Diode Model *****************
** Product: MM3Z27VST1G 
** Zener Voltage Regulators
** Package: SOD-323
**---------------------------------------------------------
.SUBCKT MM3Z27VST1G 2  1
D1 2 1 MDD1
.MODEL MDD1 D
+ IS=6.048e-15     N=1        XTI=3     RS=0.885
+ CJO=6.86e-11     VJ=0.40    M=0.64
RL 1 2 MDR 3.78e8
.MODEL MDR RES TC1=3.1e-3 TC2=8.1e-5
RZ 2 3 168
D2 4 3 MDD2
.MODEL MDD2 D
+ IS=1.5e-15      N=1.0
EV1 1 4 6 8 1
IBV 0 6 5.0e-3
RBV 6 0 MDRBV 5.24e3
.MODEL MDRBV RES TC1=0.0002
D3 8 0 MDD2
IT 0 8 0.001
.ENDS
***********************************************************
** Creation: Jul.-12-2022   Rev: 1.0
** onsemi
*$

